US04814332
0.60 g of p-(dimethylamino)phenacyl bromide is added to a solution of 0.80 g of 1-[[p-(dimethylamino)benzylidene]amino]-2-(p-methoxyphenyl)-imidazole in 80 ml of acetonitrile. After stirring at room temperature for 3 days, the product is removed by filtration and washed with ether. There is obtained 3-[[p-(dimethylamino)benzylidene]amino]-1-[p-(dimethylamino)phenacyl]-2-(p-methoxyphenyl)imidazolium bromide of melting point 234°.

reactant | p-(dimethylamino)phenacyl bromide | 0.60 g | CN(C1=CC=C(C(CBr)=O)C=C1)C | C10H12BrNO
reactant | 1-[[p-(dimethylamino)benzylidene]amino]-2-(p-methoxyphenyl)-imidazole | 0.80 g | CN(C1=CC=C(C=NN2C(=NC=C2)C2=CC=C(C=C2)OC)C=C1)C | C19H20N4O
solvent | acetonitrile | 80 ml | C(C)#N | C2H3N
product | 3-[[p-(dimethylamino)benzylidene]amino]-1-[p-(dimethylamino)phenacyl]-2-(p-methoxyphenyl)imidazolium bromide | [Br-].CN(C1=CC=C(C=NN2C(=[N+](C=C2)CC(=O)C2=CC=C(C=C2)N(C)C)C2=CC=C(C=C2)OC)C=C1)C | InChI=1S/C29H32N5O2.BrH/c1-31(2)25-12-6-22(7-13-25)20-30-34-19-18-33(29(34)24-10-16-27(36-5)17-11-24)21-28(35)23-8-14-26(15-9-23)32(3)4;/h6-20H,21H2,1-5H3;1H/q+1;/p-1
